US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-4-phenylethynyl-benzenesulfonamide
To a magnetically stirred mixture of the N-(2-Benzoyl-4-chloro-phenyl)-4-bromo-benzenesulfonamide (450 mg, 1.0 mmol), [1,1′ Bis-(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (30 mg, 0.037 mmol) and copper (I) iodide (100 mg, 0.52 mmol) was added DME (6 mL) and dry triethylamine (3 mL) under dry nitrogen. To this stirred mixture was added tetrabutylammonium iodide (250 mg), followed by the addition of phenylacetylene (0.240 mL). The dark green mixture was stirred at ambient temp overnight. The reaction was worked up by addition to crushed ice and extracted with ethyl acetate (3×75 mL), and the organic layer was dried (MgSO4), filtered and concentrated. The crude product was chromatographed on silica gel using 10–30% EtOAc/Hexane. 1H NMR (CDCl3) δ 9.64 (br s, 1H, NH), 7.75 (d, 1H, J=Hz), 7.75 (d, 1H, J=8.8 Hz), 7.48 (m, 8H), 7.36 (m, 7H). MS: m/z 472 (M+1).

reactant | N-(2-Benzoyl-4-chloro-phenyl)-4-bromo-benzenesulfonamide | 1.0 mmol, 450 mg | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)Br | C19H13BrClNO3S
reactant | dichloromethane | 0.037 mmol, 30 mg | ClCCl | CH2Cl2
reactant | DME | 6 mL | COCCOC | C4H10O2
reactant | phenylacetylene | 0.240 mL | C1(=CC=CC=C1)C#C | C8H6
catalyst | tetrabutylammonium iodide | 250 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | copper (I) iodide | 0.52 mmol, 100 mg | [Cu]I
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
product | N-(2-Benzoyl-4-chloro-phenyl)-4-phenylethynyl-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)C#CC1=CC=CC=C1 | C27H18ClNO3S
